US09376436B2
To a microwave vial containing 2-benzyloxy-4-bromo-1-fluoro-benzene [CAS: 1036724-54-5] (1500 mg, 5.34 mmol) and (1S,2S)-(+)-1,2-diaminocyclohexane (121.86 mg, 1.07 mmol) in 1,4-dioxane (10 mL) was added copper (I) iodide (203.24 mg, 1.07 mmol), potassium phosphate (2265.3 mg, 10.67 mmol), and 1H-pyrazole (363.26 mg, 5.34 mmol). The vial was sealed and heated in a microwave at 200° C. for 1 hour. The reaction mixture was diluted with water (50 mL) and EtOAc (30 mL), and the organics were separated, washed with brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by column chromatography over silica (25 g, SNAP cartridge), eluting with a gradient of EtOAc:isohexane from 0% to 30%. Fractions containing desired product were combined and concentrated in vacuo to give 1-(3-benzyloxy-4-fluoro-phenyl)pyrazole (D71) (649.1 mg, 2.2984 mmol, 43.1% yield) as a pale orange oil;

reactant | 2-benzyloxy-4-bromo-1-fluoro-benzene | 5.34 mmol, 1500 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Br)F | C13H10BrFO
reactant | (1S,2S)-(+)-1,2-diaminocyclohexane | 1.07 mmol, 121.86 mg | N[C@@H]1[C@H](CCCC1)N | C6H14N2
reactant | potassium phosphate | 10.67 mmol, 2265.3 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1H-pyrazole | 5.34 mmol, 363.26 mg | N1N=CC=C1 | C3H4N2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | copper (I) iodide | 1.07 mmol, 203.24 mg | [Cu]I
product | 1-(3-benzyloxy-4-fluoro-phenyl)pyrazole | 2.2984 mmol, 649.1 mg, 43.1% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1F)N1N=CC=C1 | C16H13FN2O
